US08026234B2
Compound 117: 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-N-(1-(2-hydroxyethyl)piperidin-4-yl)-5-methoxybenzamide
The title compound was synthesized from 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoic acid and 2-(4-aminopiperidin-1-yl)ethanol as described in the General procedure for amide bond synthesis. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.40-1.86 (m, 12H) 1.88-2.10 (m, 5H) 2.33-2.42 (m, 2H) 2.84 (d, J=11.4 Hz, 2H) 3.48 (q, J=6.2 Hz, 2H) 3.73 (d, J=4.6 Hz, 1H) 4.08 (t, J=14.0 Hz, 2H) 4.37 (t, J=5.4 Hz, 1H) 4.82 (t, J=8.2 Hz, 1H) 7.18 (d, J=6.6 Hz, 1H) 7.90 (dd, J=7.7, 3.4 Hz, 1H) 8.04 (s, 1H) 8.18-8.34 (m, 2H). [M+H] calc'd for C28H36F3N7O4, 592. found 592.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)O)C=C2OC)F | C21H22F3N5O4
reactant | 2-(4-aminopiperidin-1-yl)ethanol | NC1CCN(CC1)CCO | C7H16N2O
product | 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-N-(1-(2-hydroxyethyl)piperidin-4-yl)-5-methoxybenzamide | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)NC1CCN(CC1)CCO)C=C2OC)F | C28H36F3N7O4
